US08748613B2
Preparation of (3R)-1-(2-oxo-2-phenylethyl)-3-(2-(piperidin-1-yl)-2-(thiophen-3-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride (C109)
2-Chloro-1-phenylethanone (107 mg, 0.69 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-3-yl)acetate (210 mg, 0.63 mmol) in EtOAc (4.2 ml) and acetonitrile (2.1 ml) and. The mixture was stirred at room temperature for 48 hours. The solvent was evaporated and the crude was purified by flash chromatography (DCM/MeOH=9/1) to collect the title compound (117 mg, 38.1% yield) as an off-white spongy solid.

reactant | 2-Chloro-1-phenylethanone | 0.69 mmol, 107 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(piperidin-1-yl)-2-(thiophen-3-yl)acetate | 0.63 mmol, 210 mg | N1(CCCCC1)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CSC=C2 | C18H26N2O2S
solvent | EtOAc | 4.2 ml | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 2.1 ml | C(C)#N | C2H3N
product | (3R)-1-(2-oxo-2-phenylethyl)-3-(2-(piperidin-1-yl)-2-(thiophen-3-yl)acetoxy)-1-azoniabicyclo[2.2.2]octane chloride | 117 mg, 38.1% yield | [Cl-].O=C(C[N+]12C[C@@H](C(CC1)CC2)OC(C(C2=CSC=C2)N2CCCCC2)=O)C2=CC=CC=C2 | InChI=1S/C26H33N2O3S.ClH/c29-23(20-7-3-1-4-8-20)17-28-14-9-21(10-15-28)24(18-28)31-26(30)25(22-11-16-32-19-22)27-12-5-2-6-13-27;/h1,3-4,7-8,11,16,19,21,24-25H,2,5-6,9-10,12-15,17-18H2;1H/q+1;/p-1/t21?,24-,25?,28?;/m0./s1
